US05753239
(a) allyl 4-[3-(1-adamantyl)-4-methoxybenzamido]benzoate
In a manner analogous to Example 1(a) starting with 12.6 g (71 mmoles) of allyl 4-aminobenzoate and 21.6 g (71 mmoles) of 3-(1-adamantyl)-4-methoxy benzoyl chloride, 32 g of the expected amide whose melting point is 191°-192° C. are isolated.

reactant | allyl 4-aminobenzoate | 71 mmoles, 12.6 g | NC1=CC=C(C(=O)OCC=C)C=C1 | C10H11NO2
reactant | 3-(1-adamantyl)-4-methoxy benzoyl chloride | 71 mmoles, 21.6 g | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)Cl)C=CC2OC | C18H21ClO2
product | allyl 4-[3-(1-adamantyl)-4-methoxybenzamido]benzoate | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C(=O)NC3=CC=C(C(=O)OCC=C)C=C3)C=CC2OC | C28H31NO4
